US04703036
Step A: Benzyloxycarbonyl-D-phenylalanine 2,4,5-trichlorophenyl ester
60.0 g (0.2 mole) of benzyloxycarbonyl-D-phenylalanine [H. Yajima and K. Kubo: J. Am. Chem. Soc. 87, 2039-2044 (1965)] and 39.4 g (0.2 mole) of 2,4,5-trichlorophenol are dissolved in 200 ml of tetrahydrofuran, the solution is cooled to 5° to 10° C., then at stirring 41.2 g (0.2 mole) of dicyclohexylcarbodiimide are added in about 30 minutes. The reaction mixture is stirred for 6 hours without refrigeration. The precipitated dicyclohexylurea is filtered, washed three times with 50 ml of tetrahydrofuran and the combined tetrahydrofurane solutions are evaporated at reduced pressure. The residue is crystallized from 300 ml of hot etanol, filtered, washed twice with 50 ml of ethanol having a temperature of 5° to 10° C., then the crystals are dried in a vacuum desiccator. Yield: 72 g (75%).

reactant | benzyloxycarbonyl-D-phenylalanine | 0.2 mole, 60.0 g | C(C1=CC=CC=C1)OC(=O)N[C@H](CC1=CC=CC=C1)C(=O)O | C17H17NO4
reactant | 2,4,5-trichlorophenol | 0.2 mole, 39.4 g | ClC1=C(C=C(C(=C1)Cl)Cl)O | C6H3Cl3O
reactant | dicyclohexylcarbodiimide | 0.2 mole, 41.2 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | Benzyloxycarbonyl-D-phenylalanine 2,4,5-trichlorophenyl ester | ClC1=C(C=C(C(=C1)Cl)Cl)OC([C@H](NC(=O)OCC1=CC=CC=C1)CC1=CC=CC=C1)=O | C23H18Cl3NO4
